US05786523
2-Hydroxy-3,6-di-hydroxycarbonylnaphthalene (12.1 g) was suspended in acetic anhydride (39.0 g), acetic acid (60.1 g) and N,N-dimethylformamide (40.0 g) and 4-dimethylaminopyridine (0.2 g) was added, followed by heating to 50° C. After heating for about 20 hours, the reaction solution was poured into a mixed solution of water (400 g) and methanol (100 g). The deposit was filtered and then washed with water to obtain 11.6 g of 2-acetoxy-3,6-di-hydroxycarbonylnaphthalene as grayish white powder (DSC analysis value: 239.2° C.).

reactant | 2-Hydroxy-3,6-di-hydroxycarbonylnaphthalene | 12.1 g | OC1=CC2=CC=C(C=C2C=C1C(=O)O)C(=O)O | C12H8O5
reactant | acetic acid | 60.1 g | C(C)(=O)O | C2H4O2
reactant | N,N-dimethylformamide | 40.0 g | CN(C=O)C | C3H7NO
reactant | water | 400 g | O | H2O
solvent | acetic anhydride | 39.0 g | C(C)(=O)OC(C)=O | C4H6O3
catalyst | 4-dimethylaminopyridine | 0.2 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methanol | 100 g | CO | CH4O
product | 2-acetoxy-3,6-di-hydroxycarbonylnaphthalene | 11.6 g | C(C)(=O)OC1=CC2=CC=C(C=C2C=C1C(=O)O)C(=O)O | C14H10O6
